### PR TITLE
[Merged by Bors] - feat : refactor `IsUniform` through uniformMeasure

### PR DESCRIPTION
**Pull request by JADekker**
Refactor the definitions and proofs of IsUniform through the new `uniformMeasure`, which abstracts away from the need of a random variable and probability space.

A future PR can refactor the PMF parts in terms of a `uniformMeasure`.

This was #10141, which was split into a small PR to move the results (merged) and this one. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 1]
```diff
@@ -28,35 +35,76 @@ This file defines a number of uniform `PMF` distributions from various inputs,
...
+  rw [smul_apply, restrict_apply hA, ENNReal.div_eq_inv_mul, smul_eq_mul, Set.inter_comm]
 
-section
+theorem isProbabilityMeasure {s : Set E} (hns : μ s ≠ 0) (hnt : μ s ≠ ∞) :
+    IsProbabilityMeasure (uniformMeasure s μ) :=
+  ⟨by
+    unfold uniformMeasure
+    simp only [smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply, MeasurableSet.univ,
+      restrict_apply, Set.univ_inter, smul_eq_mul]
+    exact ENNReal.inv_mul_cancel hns hnt⟩
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Uniform.lean:80]:
```suggestion
theorem isProbabilityMeasure {s : Set E} (hns : μ s ≠ 0) (hnt : μ s ≠ ∞) :
    IsProbabilityMeasure (uniformMeasure s μ) where
  measure_univ := by
    unfold uniformMeasure
    simp only [smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply, MeasurableSet.univ,
      restrict_apply, Set.univ_inter, smul_eq_mul]
    exact ENNReal.inv_mul_cancel hns hnt
```

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 2]
```diff
@@ -28,35 +35,76 @@ This file defines a number of uniform `PMF` distributions from various inputs,
...
+
+theorem toMeasurable_eq {s : Set E} :
+    uniformMeasure (toMeasurable μ s) μ = uniformMeasure s μ:= by
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Uniform.lean:83]:
```suggestion
    uniformMeasure (toMeasurable μ s) μ = uniformMeasure s μ := by
```

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 3]
```diff
@@ -28,35 +35,76 @@ This file defines a number of uniform `PMF` distributions from various inputs,
...
+variable {Ω : Type*}
+
+variable {_ : MeasurableSpace Ω} {ℙ : Measure Ω}
+
 /-- A random variable `X` has uniform distribution on `s` if its push-forward measure is
 `(μ s)⁻¹ • μ.restrict s`. -/
-def IsUniform (X : Ω → E) (support : Set E) (ℙ : Measure Ω) (μ : Measure E := by volume_tac) :=
-  map X ℙ = (μ support)⁻¹ • μ.restrict support
+def IsUniform (X : Ω → E) (s : Set E) (ℙ : Measure Ω) (μ : Measure E := by volume_tac) :=
+  (map X ℙ) = uniformMeasure s μ -- was `(μ s)⁻¹ • μ.restrict s
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Uniform.lean:100]:
```suggestion
  map X ℙ = uniformMeasure s μ
```

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 4]
```diff
@@ -172,9 +224,34 @@ theorem integral_eq (huX : IsUniform X s ℙ) :
 
 end IsUniform
 
-end pdf
+variable {X : Ω → E}
+
+lemma uniformMeasure.IsUniform {s : Set E} : IsUniform (id : E → E) s (uniformMeasure s μ) μ := by
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Uniform.lean:229]:
```suggestion
lemma uniformMeasure.isUniform {s : Set E} : IsUniform (id : E → E) s (uniformMeasure s μ) μ := by
```
or perhaps better
```suggestion
lemma IsUniform.uniformMeasure {s : Set E} : IsUniform (id : E → E) s (uniformMeasure s μ) μ := by
```
which will work for `(.uniformMeasure)` notation

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 5]
```diff
@@ -172,9 +224,34 @@ theorem integral_eq (huX : IsUniform X s ℙ) :
...
+  unfold IsUniform
+  rw [Measure.map_id]
+
+/-- The density of the uniform measure on a set with respect to itself. This allows us to abstract
+away the choice of random variable and probability space. -/
+def uniformPDF {s : Set E} {x : E} : ℝ≥0∞ := s.indicator ((μ s)⁻¹ • (1 : E → ℝ≥0∞)) x
+
+/-- Alternative definition for `uniformPDF` based on if-then-else rather than Set.indicator. -/
+def uniformPDF_ite {s : Set E} {x : E} : ℝ≥0∞ := if x ∈ s then (μ s)⁻¹ else 0
```
Comment (eric-wieser) [inline Mathlib/Probability/Distributions/Uniform.lean:238]: Having two definitions like this is a bad idea. You should keep the first one, and add a lemma saying it expands to `if x ∈ s then (μ s)⁻¹ else 0`

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean]: I've removed it, thank you!

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 6]
```diff
@@ -28,35 +35,76 @@ This file defines a number of uniform `PMF` distributions from various inputs,
...
+  apply mul_eq_zero.mpr
+  refine Or.inr (le_antisymm ?_ (zero_le _))
+  exact ht ▸ restrict_apply_le s t
+
+theorem uniformMeasure_apply {s : Set E} {A : Set E}
+    (hA : MeasurableSet A) : uniformMeasure s μ A = μ (s ∩ A) / μ s := by
+  unfold uniformMeasure
+  rw [smul_apply, restrict_apply hA, ENNReal.div_eq_inv_mul, smul_eq_mul, Set.inter_comm]
+
+theorem isProbabilityMeasure {s : Set E} (hns : μ s ≠ 0) (hnt : μ s ≠ ∞) :
```
Comment (JasonKYi) [inline Mathlib/Probability/Distributions/Uniform.lean:74]: Can you add a instance saying uniformMeasure is always a finite measure?

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:74]: Added an instance for IsFiniteMeasure and IsProbabilityMeasure. I'd guess the later is more informative, so we might prefer to have that one, as the other one should be automatically inferable from that one? I'm not sure about this specific case though, as we have these two hypotheses?

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:74]: Build fails, it can't unify the hypotheses {hns ...} and {hnt ...}. so I've removed the instances. I used

```
instance uniformMeasure.isProbabilityMeasure {s : Set E} {hns : μ s ≠ 0} {hnt : μ s ≠ ∞} :
    IsProbabilityMeasure (uniformMeasure s μ) :=
  MeasureTheory.UniformMeasure.isProbabilityMeasure hns hnt

instance uniformMeasure.isFiniteMeasure {s : Set E} {hns : μ s ≠ 0} {hnt : μ s ≠ ∞} :
    IsFiniteMeasure (uniformMeasure s μ) := by
  apply uniformMeasure.isProbabilityMeasure.toIsFiniteMeasure
  exact hns
  exact hnt
```

Comment (JasonKYi) [reply Mathlib/Probability/Distributions/Uniform.lean:74]: You shouldn't need `{hns : μ s ≠ 0} {hnt : μ s ≠ ∞}` for showing it is a finite measure since it is the 0 measure in that case. As a result you can make the `isFiniteMeasure` a instance but not `isProbabilityMeasure`

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:74]: @JasonKYi I tried proving it like this, but the intermediate result that I need is false, can you tell me how I should proceed? 

```
instance uniformMeasure.isFiniteMeasure {s : Set E} :
    IsFiniteMeasure (uniformMeasure s μ) where
  measure_univ_lt_top := by
    have : restrict μ s Set.univ ≤ μ s := by
      simp_all only [MeasurableSet.univ, restrict_apply, Set.univ_inter, le_refl]
    unfold uniformMeasure
    have : (μ s)⁻¹ * μ s < ⊤ := by
      sorry
    simp_all only [MeasurableSet.univ, restrict_apply, Set.univ_inter, le_refl, smul_toOuterMeasure,
      OuterMeasure.coe_smul, Pi.smul_apply, smul_eq_mul]
```

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:74]: Thank you, I've fixed it. The `have : ` statement seems to be like it should be in Mathlib, but I couldn't find it.

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:74]: fixed!

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 7]
```diff
@@ -28,35 +35,88 @@ This file defines a number of uniform `PMF` distributions from various inputs,
...
+noncomputable section
 
 namespace MeasureTheory
 
 variable {E : Type*} [MeasurableSpace E] {m : Measure E} {μ : Measure E}
-variable {Ω : Type*} {_ : MeasurableSpace Ω} {ℙ : Measure Ω}
 
+/-- A measure is a uniform measure for a set `s` if it is the rescaled restriction of the measure to
+this set.  -/
+def uniformMeasure (s : Set E) (μ : Measure E := by volume_tac) : Measure E :=
```
Comment (JasonKYi) [inline Mathlib/Probability/Distributions/Uniform.lean:55]: Actually, I think this is the same as [`ProbabilityTheory.cond`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/ConditionalProbability.html#ProbabilityTheory.cond). Can you use it instead?

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:55]: Good catch, let me change that indeed!

**Comment by JasonKYi** [comment]
Looks good to me!
maintainer merge

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 8]
```diff
@@ -172,9 +185,32 @@ theorem integral_eq (huX : IsUniform X s ℙ) :
...
+  rw [Measure.map_id]
+
+/-- The density of the uniform measure on a set with respect to itself. This allows us to abstract
+away the choice of random variable and probability space. -/
+def uniformPDF {s : Set E} {x : E} : ℝ≥0∞ := s.indicator ((μ s)⁻¹ • (1 : E → ℝ≥0∞)) x
 
-end
+/-- Check that indeed any uniform random variable has the uniformPDF. -/
+lemma uniformPDF_eq_pdf {s : Set E} (hs : MeasurableSet s) (hu : pdf.IsUniform X s ℙ μ) :
+    @uniformPDF _ _ μ s  =ᵐ[μ] pdf X ℙ μ := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Uniform.lean:201]:
```suggestion
    @uniformPDF _ _ μ s =ᵐ[μ] pdf X ℙ μ := by
```

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 9]
```diff
@@ -172,9 +185,32 @@ theorem integral_eq (huX : IsUniform X s ℙ) :
...
+  unfold uniformPDF
+  exact Filter.EventuallyEq.trans (pdf.IsUniform.pdf_eq hs hu).symm (ae_eq_refl _)
+
+/-- Alternative way of writing the uniformPDF. -/
+lemma uniformPDF_ite {s : Set E} {x : E} :
+    @uniformPDF _ _ μ s x = if x ∈ s then (μ s)⁻¹ else 0 := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Uniform.lean:207]: If you need `@` every time you want to use uniformPDF, then you should probably change some implicit argument into an explicit argument.

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 10]
```diff
@@ -172,9 +185,32 @@ theorem integral_eq (huX : IsUniform X s ℙ) :
 
 end IsUniform
 
-end pdf
+variable {X : Ω → E}
+
+lemma IsUniform.uniformMeasure {s : Set E} :
+    IsUniform (id : E → E) s (ProbabilityTheory.cond μ s) μ := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Uniform.lean:191]: The name does not seem to describe the result?

File: Mathlib/Probability/ConditionalProbability.lean [hunk 11]
```diff
@@ -103,6 +140,9 @@ theorem cond_apply (hms : MeasurableSet s) (t : Set Ω) : μ[t|s] = (μ s)⁻¹
   rw [cond, Measure.smul_apply, Measure.restrict_apply' hms, Set.inter_comm, smul_eq_mul]
 #align probability_theory.cond_apply ProbabilityTheory.cond_apply
 
+ theorem cond_apply' (t : Set Ω) (hA : MeasurableSet t) : μ[t|s] = (μ s)⁻¹ * μ (s ∩ t) := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/ConditionalProbability.lean:143]:
```suggestion
 theorem cond_apply' {t : Set Ω} (hA : MeasurableSet t) : μ[t|s] = (μ s)⁻¹ * μ (s ∩ t) := by
```

File: Mathlib/Probability/Distributions/Uniform.lean (hunk 10 above)
Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:191]: I'll make the necessary changes, do you want to take it off the queue?

Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Uniform.lean:191]: "maintainer merge" asks for a final validation from a maintainer, it does not send the PR to bors right away, so it's not on any queue right now: you can make the changes in this PR, and I'll merge it afterwards.

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean]: Great, I've made all the necessary changes I think!

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 12]
```diff
@@ -172,9 +185,33 @@ theorem integral_eq (huX : IsUniform X s ℙ) :
...
+variable {X : Ω → E}
+
+lemma IsUniform.cond {s : Set E} :
+    IsUniform (id : E → E) s (ProbabilityTheory.cond μ s) μ := by
+  unfold IsUniform
+  rw [Measure.map_id]
+
+/-- The density of the uniform measure on a set with respect to itself. This allows us to abstract
+away the choice of random variable and probability space. -/
+def uniformPDF (μ : Measure E := by volume_tac) (s : Set E) (x : E) : ℝ≥0∞ :=
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Uniform.lean:197]: I am not sure that works with volume_tac. If you write `uniformPDF s x` (without the measure), it might try to identify `s` with a measure. Can you test it, and put the measure at the end if it fails?

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:197]: In defining `IsUniform` we are also doing ` by volume_tac`, that's why I put it here. Writing `uniformPDF s x` fails. Should I just remove `:= by volume_tac`?

Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Uniform.lean:197]: You should put the measure as last argument to make it work.

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean:197]: volume_tac doesn't seem to work, I've moved `μ` to the end.

Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Uniform.lean]: Why did you remove volume_tac? What I meant is that moving the measure to the end would allow volume_tac to work. This should beperfectly fine: `def uniformPDF (s : Set E) (x : E) (μ : Measure E := by volume_tac)`

Also, if you remove volume_tac (which I think you should not do), there is no reason to move the measure to the end.

Comment (JADekker) [reply Mathlib/Probability/Distributions/Uniform.lean]: Okay, I totally misinterpreted what you said, sorry about that. I will put the volume_tac back!

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 13]
```diff
@@ -172,9 +185,33 @@ theorem integral_eq (huX : IsUniform X s ℙ) :
...
+variable {X : Ω → E}
+
+lemma IsUniform.cond {s : Set E} :
+    IsUniform (id : E → E) s (ProbabilityTheory.cond μ s) μ := by
+  unfold IsUniform
+  rw [Measure.map_id]
+
+/-- The density of the uniform measure on a set with respect to itself. This allows us to abstract
+away the choice of random variable and probability space. -/
+def uniformPDF (s : Set E) (x : E) (μ : Measure E := by volume_tac)  : ℝ≥0∞ :=
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Uniform.lean:197]:
```suggestion
def uniformPDF (s : Set E) (x : E) (μ : Measure E := by volume_tac) : ℝ≥0∞ :=
```

File: Mathlib/Probability/Distributions/Uniform.lean [hunk 14]
```diff
@@ -163,7 +174,9 @@ theorem mul_pdf_integrable (hcs : IsCompact s) (huX : IsUniform X s ℙ) :
 `(λ s)⁻¹ * ∫ x in s, x ∂λ` where `λ` is the Lebesgue measure. -/
 theorem integral_eq (huX : IsUniform X s ℙ) :
     ∫ x, X x ∂ℙ = (volume s)⁻¹.toReal * ∫ x in s, x := by
-  rw [← smul_eq_mul, ← integral_smul_measure, ← huX]
+  rw [← smul_eq_mul, ← integral_smul_measure]
+  dsimp [IsUniform, ProbabilityTheory.cond] at huX
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Uniform.lean:178]: That dsimp is non-terminal:
```suggestion
  dsimp only [IsUniform, ProbabilityTheory.cond] at huX
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+
